US08217176B2
Production of ethyl 4-chloro-3-hydroxy-6-methylthieno[3,2-c]pyridine-2-carboxylate
To a suspension of ethyl 2,4-dichloro-6-methylpyridine-3-carboxylate (10.0 g, 42.7 mmol) in acetonitrile (45 mL) were added potassium carbonate (8.85 g, 64.1 mmol) and ethyl thioglycolate (4.68 mL, 42.7 mmol), and the mixture was stirred for 15 hr under refluxing conditions. The reaction mixture was diluted with water (150 mL), 6N hydrochloric acid (15 mL) was added and the mixture was stirred for 30 min. The precipitated solid was collected by filtration, washed with water and ethanol-diisopropyl ether (1/1), and dried under reduced pressure to give the title compound (10.9 g, 94%) as a white powder.

reactant | ethyl 2,4-dichloro-6-methylpyridine-3-carboxylate | 42.7 mmol, 10.0 g | ClC1=NC(=CC(=C1C(=O)OCC)Cl)C | C9H9Cl2NO2
reactant | potassium carbonate | 64.1 mmol, 8.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl thioglycolate | 42.7 mmol, 4.68 mL | C(CS)(=O)OCC | C4H8O2S
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
solvent | water | 150 mL | O | H2O
solvent | hydrochloric acid | 6N, 15 mL | Cl | ClH
product | ethyl 4-chloro-3-hydroxy-6-methylthieno[3,2-c]pyridine-2-carboxylate | 10.9 g, 94% | ClC1=NC(=CC2=C1C(=C(S2)C(=O)OCC)O)C | C11H10ClNO3S
